US08420812B2
3-Phenylethynyl-thiophene-2-carboxylic acid methyl ester
This product was prepared from 3-(toluene-4-sulfonyloxy)-thiophene-2-carboxylic acid methyl ester and phenylacetylene following the general procedure for the Sonogashira cross-coupling reaction described above. Chromatography eluent: heptane/DCM 1:1; yield (91 mg, 75%); 1H NMR δ (CDCl3): 7.53 (m, 2H), 7.39 (d, J=5.02 Hz, 1H), 7.3 (m, 3H), 7.12 (d, J=5.10 Hz, 1H), 3.82 (s, 3H); LCMS m/z: 242.

reactant | 3-(toluene-4-sulfonyloxy)-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC=CC1OS(=O)(=O)C1=CC=C(C=C1)C | C13H12O5S2
reactant | phenylacetylene | C1(=CC=CC=C1)C#C | C8H6
solvent | heptane DCM | CCCCCCC.C(Cl)Cl
product | 3-Phenylethynyl-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC=CC1C#CC1=CC=CC=C1 | C14H10O2S
